US05306728
700 mg of methyl β-(5-thiazolyl)acrylate [see Chem. Pharm. Bull., 35 823 (1987)] was dissolved in 10 ml of tetrahydrofuran, and under a nitrogen atmosphere, 8.1 ml of a 1M toluene solution of diisobutylaluminum hydride was added dropwise at -70° C. The mixture was stirred at this temperature for 50 minutes, and water and ethyl acetate were added to the solution. The precipitate was removed by filtration, and the filtrate was worked up in a customary manner to give 279 mg of 3-(5-thiazolyl)-2-propen-1-ol as a yellow oil.

reactant | methyl β-(5-thiazolyl)acrylate | 700 mg | S1C=NC=C1C=CC(=O)OC | C7H7NO2S
reactant | toluene | 1M | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-thiazolyl)-2-propen-1-ol | 279 mg | S1C=NC=C1C=CCO | C6H7NOS
